* C:\Users\gabry\eletronica1\resources\draft\roteirofinal\circuitoproposto2.asc
V1 N003 0 SINE(0 311 60) Rser=0.00001
L1 0 N003 336.11µ
L2 0 Vin+ 1µ
L3 N006 0 1µ
D1 Vin+ N002 d1n4007
D2 N006 N002 d1n4007
C1 N002 0 9.1667m
R1 N002 N004 1300
C2 Vin+ N007 505.05µ
C3 Vc3 0 505.05µ
D3 N007 Vc3 d1n4007
D4 0 N007 d1n4007
R2 Vc3 N008 1108
D6 0 N008 UMZ27K
Q1 Vc3 N008 VCC 0 2N3904
C4 VCC 0 100n
D5 0 N004 UMZ10K
R3 Vout N005 5k
R4 N005 0 10k
XU2 N002 N001 Vout irf540
XU1 N004 N005 VCC 0 N001 LM324
R5 Vout 0 15
.model D D
.lib C:\Users\gabry\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\gabry\Documents\LTspiceXVII\lib\cmp\standard.bjt
K L1 L2 L3 1
.lib C:\Users\gabry\Documents\LTspiceXVII\1n4007.txt
.tran 200m
.lib C:\Users\gabry\Documents\LTspiceXVII\irf540.lib
.lib C:\Users\gabry\Downloads\LM324 SPICE MODEL .MOD
.backanno
.end
