* C:\Users\gabry\eletronica1\resources\draft\roteirofinal\filtro.asc
V1 N001 0 SINE(0 311 60) Rser=0.00001
L1 0 N001 336.11µ
L2 0 Vin+ 1µ
L3 N003 0 1µ
D1 Vin+ N002 d1n4007
D2 N003 N002 d1n4007
C1 N002 0 9.1667m
R1 N002 0 16.3
C2 Vin+ N004 505.05µ
C3 Vc3 0 505.05µ
D3 N004 Vc3 d1n4007
D4 0 N004 d1n4007
R2 Vc3 N005 1108
D6 0 N005 UMZ27K
Q1 Vc3 N005 Vcc 0 2N3904
C4 Vcc 0 100n
.model D D
.lib C:\Users\gabry\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\gabry\Documents\LTspiceXVII\lib\cmp\standard.bjt
K L1 L2 L3 1
.lib C:\Users\gabry\Documents\LTspiceXVII\1n4007.txt
.tran 200m
.backanno
.end
